US06096895
Step H: Preparation of 5-chloro-3-[4-(trifluoromethyl)phenyl]-1,2,4-thiadiazole
A mixture of 4-(trifluoromethyl)benzamidine hydrochloride dihydrate (5.0 g), water (50 mL), methylene chloride (100 mL), benzyltriethylammonium chloride (0.44 g), and perchloromethyl mercaptan (2.1 mL) was prepared at room temperature and then cooled to 0° C. A solution of sodium hydroxide (3.07 g) in water (50 mL) was added via an addition funnel while maintaining the temperature below 10° C. The reaction was left to stir overnight at room temperature. The mixture was transferred to a separatory funnel and the two layers were separated. The organic layer was washed with saturated sodium bicarbonate, dried (MgSO4), filtered and concentrated under reduced pressure. The crude material was purified by flash chromatography (hexane as eluent) to afford 3.7 g of the title compound of Step H as a white powder. 1H NMR (CDCl3): δ 8.36 (d,2H), 7.73 (d,2H).

reactant | 4-(trifluoromethyl)benzamidine hydrochloride dihydrate | 5.0 g | O.O.Cl.FC(C1=CC=C(C(=N)N)C=C1)(F)F
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
reactant | perchloromethyl mercaptan | 2.1 mL | ClC(Cl)(Cl)S | CHCl3S
reactant | sodium hydroxide | 3.07 g | [OH-].[Na+]
catalyst | benzyltriethylammonium chloride | 0.44 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 50 mL | O | H2O
solvent | water | 50 mL | O | H2O
product | 5-chloro-3-[4-(trifluoromethyl)phenyl]-1,2,4-thiadiazole | 3.7 g | ClC1=NC(=NS1)C1=CC=C(C=C1)C(F)(F)F | C9H4ClF3N2S
